US06355642B1
1-(2-Bromoethyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one
2a,3,4,5-Tetrahydrobenz[cd]indole-2(1H) -one (3.46 g, 20mmol) was dissolved in anhydrous N,N-dimethylformamide (20 ml). Thereto was added sodium hydride (0.8 g, 20 mmol), and the resulting solution was stirred at room temperature for 1 hour. The reaction solution was mixed with 1,2-dibromoethane (10 ml, 115 mmol) and again stirred for 1 hour. The reaction solution was extracted by adding 100 ml of ethyl acetate and 100 ml of water, and the resulting ethyl acetate layer was separated, washed with water and dried with anhydrous sodium sulfate. Then the compound obtained by the evaporation of the solvent under a reduced pressure was crystallized from a dimethylformamide-water mixture to obtain 1.9 g of the title compound (34% in yield).

reactant | 2a,3,4,5-Tetrahydrobenz[cd]indole-2(1H) -one | 20mmol, 3.46 g | N1C(C2C=3C(=CC=CC13)CCC2)=O | C11H11NO
reactant | sodium hydride | 20 mmol, 0.8 g | [H-].[Na+]
reactant | 1,2-dibromoethane | 115 mmol, 10 ml | BrCCBr | C2H4Br2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(2-Bromoethyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 1.9 g, 34% | BrCCN1C(C2C=3C(=CC=CC13)CCC2)=O | C13H14BrNO
